US05013841
A mixture of 1.0 g of 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1.18 g of 2-methylpiperazine and 10 ml of pyridine was heated under reflux for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in 28% aqueous ammonia. The solution was neutralized with a 10% aqueous solution of acetic acid and cooled with ice. The crystals were collected by filtration, dissolved in a 10% aqueous solution of acetic acid, treated with activated charcoal, adjusted to pH 8-9 with 29% aqueous ammonia, and cooled with ice. The crystals were collected by filtration and washed successively with water and ethanol to give 0.80 g of 5-amino-1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. m.p. 181°-183° C.

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.0 g | NC1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)O)=O | C13H10F2N2O3
reactant | 2-methylpiperazine | 1.18 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.80 g | NC1=C2C(C(=CN(C2=CC(=C1F)N1CC(NCC1)C)C1CC1)C(=O)O)=O | C18H21FN4O3
